US07465733B2
To 9.5 g of 7-bromo-3,4-dihydronaphthalen-1(2H)-one (42 mmol), prepared according to the method described in Synth. Comm. 1994, 2777, dissolved in 100 ml of ethanol, there are added, at 0° C. and in two portions,0.8 g of sodium borohydride (21 mmol). The reaction mixture is then allowed to come back up to ambient temperature over 30 minutes, and then the ethanol is evaporated off. The residue is taken up in 100 ml of toluene and 100 ml of water. After separation, the aqueous phase is extracted with 50 ml of toluene. The toluene phases are combined, washed with a saturated aqueous solution of sodium chloride and are then evaporated to yield 7-bromo-1,2,3,4-tetrahydronaphth-1-ol in the form of an oil.

reactant | 7-bromo-3,4-dihydronaphthalen-1(2H)-one | 42 mmol, 9.5 g | BrC1=CC=C2CCCC(C2=C1)=O | C10H9BrO
reactant | sodium borohydride | 21 mmol, 0.8 g | [BH4-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 7-bromo-1,2,3,4-tetrahydronaphth-1-ol | BrC1=CC=C2CCCC(C2=C1)O | C10H11BrO
